US07547691B2
(S)-2-{2-[3-(2,4-Dimethylpiperazin-1-yl)-propylamino]-5-methylpyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride
Using the method of 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride, the title compound is synthesized from (S)-2{5-methyl-2-[3-(2-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide and isolated as a yellow solid. ES+(m/z) 479 [M(free base)+H].

reactant | 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride | Cl.Cl.ClC=1C(=NC(=NC1)NCCC1CCN(CC1)C)C1=CC2=C(S1)C=CC=C2C(=O)N
reactant | (S)-2{5-methyl-2-[3-(2-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCCN2[C@H](CNCC2)C | C25H32N6OS
product | (S)-2-{2-[3-(2,4-Dimethylpiperazin-1-yl)-propylamino]-5-methylpyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride | Cl.Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCCN2[C@H](CN(CC2)C)C | InChI=1S/C26H34N6OS.3ClH/c1-17-15-28-26(27-10-5-11-32-13-12-31(3)16-18(32)2)30-24(17)23-14-21-20(6-4-7-22(21)34-23)25(33)29-19-8-9-19;;;/h4,6-7,14-15,18-19H,5,8-13,16H2,1-3H3,(H,29,33)(H,27,28,30);3*1H/t18-;;;/m0.../s1
